US08217069B2
9-[2-Chloro-5-(2-fluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-(2-hydroxyethyl)-6-methoxy-7,9-dihydro-8H-purin-8-one
To a solution of 2-carboxymethyl-9-[2-chloro-5-(2-fluoro-6-methoxy-benzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one (20 mg) in tetrahydrofuran (2 mL) was added borane-tetrahydrofuran complex (1.03 mol/L tetrahydrofuran solution, 0.08 mL) under ice-cooling, and the mixture was stirred at the same temperature for 30 minutes, and then stirred at room temperature for 4 hours. To the reaction mixture was added 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=1/1−ethyl acetate) to give the title compound (11 mg).

reactant | 2-carboxymethyl-9-[2-chloro-5-(2-fluoro-6-methoxy-benzyloxy)-4-methoxyphenyl]-6-methoxy-7,9-dihydro-8H-purin-8-one | 20 mg | C(=O)(O)CC1=NC(=C2NC(N(C2=N1)C1=C(C=C(C(=C1)OCC1=C(C=CC=C1OC)F)OC)Cl)=O)OC | C23H20ClFN4O7
reactant | borane tetrahydrofuran | 1.03 mol/L, 0.08 mL | B.O1CCCC1
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 9-[2-Chloro-5-(2-fluoro-6-methoxybenzyloxy)-4-methoxyphenyl]-2-(2-hydroxyethyl)-6-methoxy-7,9-dihydro-8H-purin-8-one | 11 mg | ClC1=C(C=C(C(=C1)OC)OCC1=C(C=CC=C1OC)F)N1C2=NC(=NC(=C2NC1=O)OC)CCO | C23H22ClFN4O6
